* Schematics Netlist *



R_R1         +10v $N_0001  4.7k  
C_C3         0 $N_0002  1u  
R_R5         0 $N_0003  1k  
V_V2         +10v 0 10v
C_C1         0 $N_0004  100n  
Q_Q1         $N_0001 $N_0002 $N_0003 Q2N2222
R_R3         0 $N_0002  22k  
R_R4         +10v $N_0002  100k  
C_C2_Dana         $N_0001 $N_0005  1u  
R_R6         $N_0004 $N_0003  0.47k  
V_V1         $N_0005 0  
+SIN 0 0.37 1k 0 0 0
