* Schematics Netlist *



R_R6         0 $N_0001  100Mega  
V_V2         +10v 0 10v
C_C2         $N_0002 $N_0003  100n  
R_R1         $N_0004 +10v  47k  
Q_Q1         +10v $N_0004 $N_0005 Q2N2222
R_R3         $N_0004 0  22k  
R_R2         0 $N_0005  1k  
C_C1_Dana         $N_0005 $N_0001  1u  
V_V1         $N_0002 0  
+SIN 0 8.39V 1k 0 0 0
R_R4         $N_0003 $N_0004  100k  
