* Schematics Netlist *



R_R1         $N_0001 +15v  22k  
R_R2         $N_0002 +15v  1k  
R_R4         0 $N_0003  100Mega  
R_R5         $N_0005 $N_0004  10k  
C_C1         $N_0006 $N_0005  1u  
V_V2         +15v 0 15v
C_C1_Dana         $N_0002 $N_0003  1u  
RT_R3         0 $N_0004 {(11.05k*(1-0))+.001}
RB_R3        $N_0004 $N_0001 {(11.05k*0)+.001}
Q_Q1         $N_0002 $N_0007 0 Q2N2222
V_V1         $N_0006 0  
+SIN 0 2.2 1k 0 0 0
R_R7         $N_0005 $N_0007  47k  
