* Schematics Netlist *



V_V2         $N_0001 0 DC 0.53 AC 0
+SIN 0 5 200 0 0 0
R_Dana_1200031         0 $N_0002  10k  
D_D1         $N_0002 $N_0001 D1N4002 
