* Schematics Netlist *



V_V2         $N_0001 0 DC 0.53 AC 0
+SIN 0 5 200 0 0 0
D_D1         $N_0001 1200031_Dana D1N4002 
R_R1         0 1200031_Dana  10k  
C_C1         0 1200031_Dana  47uF  
