* Schematics Netlist *



D_D8         $N_0001 0 D1N4002 
D_D5         $N_0001 $N_0002 D1N4002 
D_D7         $N_0002 $N_0003 D1N4002 
D_D6         0 $N_0003 D1N4002 
C_C1         $N_0001 $N_0003  2.2u  
R_R1         $N_0001 $N_0003  10k  
V_V1         $N_0002 0 DC 0 AC 0
+SIN 0 5 2000 0 0 0
