* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+SIN 0 3 200 0 0 0
V_V2         $N_0002 0 0
R_R1         $N_0001 $N_0003  10k  
D_D1         $N_0003 $N_0002 D1N4002 
