* Schematics Netlist *



D_D1         $N_0001 0 D1N4002 
D_D2         $N_0002 $N_0001 D1N4002 
C_C1         $N_0003 $N_0001  1u  
C_C3         0 $N_0002  1u  
D_D3         $N_0004 $N_0002 D1N4002 
C_C2         $N_0001 $N_0004  1u  
V_V1         $N_0003 0  
+SIN 0 5 500 0 0 0
