* Schematics Netlist *



V_Vs         $N_0001 0 15V
R_R5         $N_0003 $N_0002  3.3k  
R_R6         0 $N_0003  4.7k  
R_R4         $N_0001 $N_0003  1k  
R_R1         0 $N_0002  1k  
R_Rx         $N_0003 $N_0002  1k  
