* Schematics Netlist *



R_R4         $N_0002 $N_0001  1k  
R_R5         $N_0001 0  3.3k  
V_Vs         $N_0002 0 10V
R_R6         0 $N_0001  4.7k  
R_Rx         $N_0001 0  0.5k  
