* Schematics Netlist *



V_V1         +15 0 15v
V_V2         0 -15 15v
R_R2         $N_0002 $N_0001  10k  
R_R1         $N_0001 $N_0003  100k  
R_R3         $N_0004 $N_0001  100k  
X_U2         0 $N_0001 +15 -15 $N_0003 uA741
V_V3         $N_0002 0 -1.5
V_V4         $N_0004 0 6
