* Schematics Netlist *



V_V1         $N_0001 0 0V
V_V3         0 -15 15v
R_R2         $N_0001 $N_0002  10k  
X_U1         $N_0002 $N_0003 +15 -15 $N_0003 uA741
V_V2         +15 0 15v
R_R3         $N_0003 0  1k  
