* Schematics Netlist *



R_R1         $N_0002 $N_0001  100k  
X_U1         $N_0001 $N_0003 +15 -15 $N_0004 uA741
V_V3         $N_0003 0 DC 0 AC 0
+SIN 0 7.5 1k 0 0 0
V_V4         $N_0002 0 5V
R_R3         $N_0004 0  100MEG  
V_V1         +15 0 15v
V_V2         0 -15 15v
R_R2         $N_0001 $N_0004  500k  
