* Schematics Netlist *



L_L1         $N_0001 $N_0002  500mH  
V_V1         $N_0003 0 DC 0 AC 0
+PULSE 0 5 1m 1n 1n 16.66m 33.33m
C_C1         0 $N_0002  100nF  
R_R3         $N_0003 $N_0001  750  
